US06211234B1
A solution of sodium (RS)-4-(benzo[1,3]dioxol-4-yl)-4-hydroxybutanoate (1.23 g) is added to a stirred suspension of sodium hydride (0.6 g, 60% dispersion in mineral oil) in tetrahydrofuran (50 mL). The mixture is stirred at room temperature for 1.5 hours when 2-fluoro-4-(3-pyridylmethoxy)benzonitrile (1.07 g) is added in one portion. The reaction mixture is heated at 55-60° C. for 18 hours and evaporated. The residue is dissolved in water (100 mL), the solution acidified to pH 2 with 1 N hydrochloric acid and the mixture extracted with ethyl acetate (100 mL). The organic phase is washed with water (100 mL), with brine (100 mL), dried over magnesium sulphate and evaporated. The yellow semi-solid residue is recrystallised from acetonitrile to give (RS)-4-(benzo[1,3]dioxol-4-yl)-4-[2-cyano-5-(3-pyridylmethoxy)phenoxy]butanoic acid (0.80 g) as a cream solid, m.p. 181-183° C. [Elemental analysis:- C,66.32; H,4.57; N,6.52%. Calculated :- C,66.66; H,4.66; N,6.48%]

reactant | sodium (RS)-4-(benzo[1,3]dioxol-4-yl)-4-hydroxybutanoate | 1.23 g | O1COC2=C1C=CC=C2C(CCC(=O)[O-])O.[Na+]
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | 2-fluoro-4-(3-pyridylmethoxy)benzonitrile | 1.07 g | FC1=C(C#N)C=CC(=C1)OCC=1C=NC=CC1 | C13H9FN2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (RS)-4-(benzo[1,3]dioxol-4-yl)-4-[2-cyano-5-(3-pyridylmethoxy)phenoxy]butanoic acid | 0.80 g | O1COC2=C1C=CC=C2C(CCC(=O)O)OC2=C(C=CC(=C2)OCC=2C=NC=CC2)C#N | C24H20N2O6
